US09056873B2
Step B: 4-Fluorobenzo[b]thiophen-2-ylboronic acid
To a cold (−78° C.) solution of 4-fluorobenzo[b]thiophene (80.4 mg, 0.528 mmol) in anhydrous THF (1 mL) was added n-butyllithium (0.363 mL, 0.581 mmol) dropwise. The reaction mixture was stirred at −78° C. for 60 minutes. A solution of triisopropyl borate (0.146 mL, 0.634 mmol) was added. The reaction mixture was stirred at −78° C. for 30 minutes and was then allowed to warm to room temperature over a 2 hour period. TLC showed completion of reaction. 1N HCl (100 mL) and DCM (50 mL) were added to the reaction mixture. The aqueous and organic layers were separated. The aqueous layer was concentrated to 50 mL, yielding a solid precipitate that was filtered and dried to give the title compound as off-white, needle-shaped crystals. The product was used without further purification.

reactant | 4-fluorobenzo[b]thiophene | 0.528 mmol, 80.4 mg | FC1=CC=CC=2SC=CC21 | C8H5FS
reactant | n-butyllithium | 0.581 mmol, 0.363 mL | C(CCC)[Li]
reactant | triisopropyl borate | 0.634 mmol, 0.146 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluorobenzo[b]thiophen-2-ylboronic acid | FC1=CC=CC=2SC(=CC21)B(O)O | C8H6BFO2S
